US06235787B1
A solution of 0.080 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-(4-nitrophenyl)-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide in a mixture of 3 ml of methanol and 1.5 ml of dichloromethane was treated with 0.020 g of 4-toluenesulphonic acid. The mixture was stirred for 5 hours at room temperature and the solution was evaporated. The resulting gum was triturated with diethyl ether to give 0.063 g of (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-(4-nitrophenyl)-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide in the form of a light-brown solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-(4-nitrophenyl)-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide | 0.080 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=C(C=C1)[N+](=O)[O-])[C@H](C(=O)NN(C1=CC=CC=C1)S(=O)(=O)C)CC(C)C | C29H38N4O8S
reactant | 4-toluenesulphonic acid | 0.020 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 3 ml | CO | CH4O
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-(4-nitrophenyl)-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-phenylvalerohydrazide | 0.063 g | ONC(=O)[C@@H](C\C=C\C1=CC=C(C=C1)[N+](=O)[O-])[C@H](C(=O)NN(C1=CC=CC=C1)S(=O)(=O)C)CC(C)C | C24H30N4O7S
